US07214824B2
2-(4-tert-Butylphenoxy)-N-{3-methoxy-4-[(methysulfonyl)amino]benzyl}acetamide
A mixture of N-[4-(aminomethyl)-3-methoxyphenyl]methanesulfonamide trifluoroacetic acid (1.24 g, 3.6 mmol), (4-tert-butylphenoxy)acetic acid (625 mg, 3.0 mmol), 1-ethyl-3-(3′-dimethylaminopropyl) carbodiimide hydrogen chloride (EDC) (1.04 g, 5.4 mmol), triethylamine (1.21 g, 2.0 mmol) and 4-(dimethylamino)pyridine (DMAP) (110 mg, 0.9 mmol) in N,N-dimethylformamide (DMF) (30 ml) was treated in the same procedure described in Example 2(b) to give 543 mg (43% yield) of the title compound as a white amorphous solid.

reactant | N-[4-(aminomethyl)-3-methoxyphenyl]methanesulfonamide trifluoroacetic acid | 3.6 mmol, 1.24 g | FC(C(=O)O)(F)F.NCC1=C(C=C(C=C1)NS(=O)(=O)C)OC
reactant | (4-tert-butylphenoxy)acetic acid | 3.0 mmol, 625 mg | C(C)(C)(C)C1=CC=C(OCC(=O)O)C=C1 | C12H16O3
reactant | 1-ethyl-3-(3′-dimethylaminopropyl) carbodiimide hydrogen chloride | 5.4 mmol, 1.04 g | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 2.0 mmol, 1.21 g | C(C)N(CC)CC | C6H15N
catalyst | 4-(dimethylamino)pyridine | 0.9 mmol, 110 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-(4-tert-Butylphenoxy)-N-{3-methoxy-4-[(methysulfonyl)amino]benzyl}acetamide | 543 mg, 43% yield | C(C)(C)(C)C1=CC=C(OCC(=O)NCC2=CC(=C(C=C2)NS(=O)(=O)C)OC)C=C1 | C21H28N2O5S
